US04826829
A solution of 1.3 grams (0.007 mole) of 5-formyl-2-phenylthiophene and 2.0 grams (0.007 mole) of diethyl (4-chlorophenyl)chloromethylphosphonate in 30 mL of dimethylformamide was stirred, and 0.5 gram (0.009 mole) of sodium methoxide was added. The reaction mixture was stirred at ambient temperature for 18 hours, and then was quenched with an aqueous solution saturated with ammonium chloride. The reaction mixture was cooled and filtered to collect a solid. The solid was dried to yield 2.0 grams of 1-(5-phenylthien-2-yl)-2-chloro-2-(4-chlorophenyl)ethene. The intermediate ethene, 1.2 grams (0.004 mole), was treated with 0.6 gram (0.005 mole) of potassium tert-butoxide in 20 mL of tetrahydrofuran. The reaction mixture was heated under reflux for four hours and then was allowed to cool to ambient temperature during a 16 hour period. An excess of aqueous 1.2N hydrochloric acid was slowly added to the reaction mixture, followed by an excess of an aqueous solution saturated with ammonium chloride. The reaction mixture was cooled, and a solid was collected by filtration. The solid was dried to yield 1.1 grams of 1-(5 -phenylthien-2-yl)-2-(4-chlorophenyl)ethyne; m.p. 141°-145° C. The nmr spectrum was consistent with the proposed structure.

reactant | 5-formyl-2-phenylthiophene | 0.007 mole, 1.3 grams | C(=O)C1=CC=C(S1)C1=CC=CC=C1 | C11H8OS
reactant | diethyl (4-chlorophenyl)chloromethylphosphonate | 0.007 mole, 2.0 grams | ClC1=CC=C(C=C1)C(Cl)P(OCC)(OCC)=O | C11H15Cl2O3P
reactant | sodium methoxide | 0.009 mole, 0.5 gram | C[O-].[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(5-phenylthien-2-yl)-2-chloro-2-(4-chlorophenyl)ethene | 2.0 grams | C1(=CC=CC=C1)C1=CC=C(S1)C=C(C1=CC=C(C=C1)Cl)Cl | C18H12Cl2S
